US07335658B2
6-[4-(2,2-DIMETHYLPENTANOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 9, making variations only as required to use 2,2-dimethylpentanoic acid in place of 2,5-dichlorobenzoic acid to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white solid (61% yield). 1H NMR (300 MHz, CDCl3) δ 8.05, 7.96, 6.98, 3.85-3.72, 3.56, 1.64-1.45, 1.23, 0.96, 0.82-0.62, 0.49-0.45, 0.12-0.07. MS (ES+) m/z 388.2 (M+1).

reactant | 2,2-dimethylpentanoic acid | CC(C(=O)O)(CCC)C | C7H14O2
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(2,2-DIMETHYLPENTANOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C(CCC)(C)C)=O | C21H33N5O2
